US07888352B2
To a solution of thiazole (470 mg) in dry THF (10 mL) at −78° C. was added nBuLi (2.5 m in hexanes, 2.21 mL). After 30 minutes BOC-piperidone (1 g) was added and the reaction mixture was gradually warmed to room temperature. After stirring overnight, the reaction mixture was quenched with water, extracted with ethyl acetate, dried (MgSO4) and the solvent removed in vacuo to yield an oil which was purified using flash chromatography to yield 4-hydroxy-4-thiazol-2-yl-piperidine-1-carboxylic acid tert-butyl ester. Cleavage of the BOC group with HCl yielded 4-thiazol-2-yl-piperidin-4-ol.

reactant | thiazole | 470 mg | S1C=NC=C1 | C3H3NS
reactant | nBuLi | 2.21 mL | [Li]CCCC
reactant | BOC-piperidone | 1 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-4-thiazol-2-yl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1SC=CN1)O | C13H20N2O3S
